US07582650B2
6-(8-Benzyl-8-aza-bicyclo[3.2.1]oct-3-ylidene)-6H-11-oxa-3-thia-1-aza-cyclopenta[a]anthracen-2-ylamine, 1h
To a solution of 9-(8-benzyl-8-aza-bicyclo[3.2.1]oct-3-ylidene)-9H-xanthen-4-ylamine in glacial acetic acid (0.1 to 1 M solution) may be added potassium thiocyanate (2 equiv). A solution of bromine (1 equiv) in glacial acetic acid (0.5 to 2 M solution) may be added slowly, and the resulting mixture may be stirred at rt for 1 to 4 hr. The solution may be basified with a sodium hydroxide solution (5 to 20%), and extracted with a suitable organic solvent such as ethyl acetate. The organic layer may be separated, dried over sodium sulfate, filtered, and evaporated. The residue may be purified via column chromatography to yield Compound 1h.

reactant | 9-(8-benzyl-8-aza-bicyclo[3.2.1]oct-3-ylidene)-9H-xanthen-4-ylamine | C(C1=CC=CC=C1)N1C2CC(CC1CC2)=C2C1=CC=CC=C1OC=1C(=CC=CC21)N | C27H26N2O
reactant | potassium thiocyanate | 2 equiv | [S-]C#N.[K+]
reactant | bromine | 1 equiv | BrBr | Br2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 0.1 to 1 M | C(C)(=O)O | C2H4O2
solvent | acetic acid | 0.5 to 2 M | C(C)(=O)O | C2H4O2
product | 6-(8-Benzyl-8-aza-bicyclo[3.2.1]oct-3-ylidene)-6H-11-oxa-3-thia-1-aza-cyclopenta[a]anthracen-2-ylamine | C(C1=CC=CC=C1)N1C2CC(CC1CC2)=C2C1=CC=C3C(=C1OC1=CC=CC=C21)N=C(S3)N | C28H25N3OS
